US04495104
To a solution of methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate in acetic acid is added perchloric acid and catalytic reduction is carried out with 5% palladium-on-carbon. The reaction mixture is worked up as in the corresponding step of Reference Example 2 and the resultant product is recrystallized from ethanol. The above procedure yields methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate as colorless needles, m.p. 71° C.-72.5° C.

reactant | methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC)C(=CC(=C1OC)OC)C | C32H54O6
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCCCCCCCCCCCCCC(=O)OC | C32H56O5
